US07288541B2
To 999.9 mg (5.55 mmol) of (4S)-4-tert-butyl-1,3,2-dioxathiolane 2,2-dioxide in 18 mL of N,N-dimethylformamide was added 755.0 mg (5.55 mmol) of 3-(trifluoromethyl)-1H-pyrazole. Then, 805.2 mg (5.83 mmol) of potassium carbonate was added, and the mixture was heated at 100° C. for 22 h. The resulting solution was cooled and 20 mL of acetyl chloride:methanol (1:9) were added. The reaction mixture was stirred for 2 h, and then saturated aqueous sodium bicarbonate was added. The mixture was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography eluting with an ethyl acetate:hexanes solution (1:4) to give 736.5 mg (56%) of (2S)-3,3-dimethyl-1-[3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-butanol and a small amount of the other regioisomer. Rf=0.23 (1:4 ethyl acetate:hexanes); 1H-NMR (300 MHz, DMSO-d6): δ 7.90 (s, 1H), 6.65 (d, J=2 Hz, 1H), 4.93 (br s, 1H), 4.30 (dd, J=14 Hz, J=2 Hz, 1H), 3.96 (dd, J=14 Hz, 10 Hz, 1H), 3.45 (d, J=10 Hz, 1H), 0.90 (s, 9H); ES-LCMS m/z 237 (M+H).

reactant | (4S)-4-tert-butyl-1,3,2-dioxathiolane 2,2-dioxide | 5.55 mmol, 999.9 mg | C(C)(C)(C)[C@@H]1OS(OC1)(=O)=O | C6H12O4S
reactant | 3-(trifluoromethyl)-1H-pyrazole | 5.55 mmol, 755.0 mg | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | potassium carbonate | 5.83 mmol, 805.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride methanol | 20 mL | C(C)(=O)Cl.CO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
product | (2S)-3,3-dimethyl-1-[3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-butanol | 736.5 mg, 56% | CC([C@@H](CN1N=C(C=C1)C(F)(F)F)O)(C)C | C10H15F3N2O
